US09193726B2
Step 1. Synthesis of trans-2-(dibenzylamino)cyclopentanol (C10)
To a solution of trans-2-aminocyclopentanol hydrochloride (385 mg, 2.82 mmol) in 1,2-dichloroethane was added benzaldehyde (748 mg, 7.04 mmol) and triethylamine (0.51 mL, 3.7 mmol). The mixture was heated to reflux for 2 hours, cooled to room temperature, and sodium triacetoxyborohydride was added. The reaction mixture was heated at reflux for an additional 18 hours, cooled to room temperature, then taken up in dichloromethane. The organic layer was washed with saturated aqueous sodium bicarbonate solution and with water, then dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification via silica gel chromatography (Gradient: 25% to 50% ethyl acetate in heptane) afforded the title compound as a golden oil. Yield: 734 mg, 2.61 mmol, 93%. LCMS m/z 282.2 (M+1). 1H NMR (400 MHz, CDCl3) δ 7.35-7.39 (m, 4H), 7.32 (br dd, J=7.8, 7.2 Hz, 4H), 7.21-7.26 (m, 2H), 4.05-4.12 (m, 1H), 3.79 (d, J=13.9 Hz, 2H), 3.52 (d, J=13.9 Hz, 2H), 2.90-2.99 (m, 1H), 1.74-1.95 (m, 2H), 1.52-1.71 (m, 3H), 1.39-1.49 (m, 1H).

reactant | trans-2-aminocyclopentanol hydrochloride | 2.82 mmol, 385 mg | Cl.N[C@H]1[C@@H](CCC1)O
reactant | benzaldehyde | 7.04 mmol, 748 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | triethylamine | 3.7 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans-2-(dibenzylamino)cyclopentanol | C(C1=CC=CC=C1)N([C@H]1[C@@H](CCC1)O)CC1=CC=CC=C1 | C19H23NO
